US05317016
To a solution of (2S,4S)-4-acetylthio-1-allyloxycarbonylpyrrolidine-2-methanol (8.02 g: ca. 30 mmole) in ethyl acetate (83 ml) under ice cooling, triphenylphosphine (9.44 g: 13.6 mmole), N-allyloxycarbonylsulfamide (3.12 g: 15.9 mmole), and azodicarboxylic acid diethylester (5.67 ml: 36 mmole) are successively added. The mixture is stirred under ice cooling for 55 minutes and at room temperature for 4 hours. The reaction mixture is dissolved in toluene (60 ml), concentrated, diluted with toluene (60 ml), filtered to remove separating crystals, and the filtrate is concentrated. The residue is purified by silica gel chromatography to give (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(N-sulfamoyl-N-allyloxycarbonylamino)methylpyrrolidine (6.74 g). Yield: 55%. Colorless oil. NMR δ(CDCl3) ppm: 1.5 to 1.7(m, 1H), 2.35(s, 3H), 2.5 to 2.7(m, 1H), 3.19 (dd, J=6.3 Hz, J=11.5 Hz, 1H), 3.68 (dd, J=3.8 Hz, J=14.5 Hz, 1H), 3.9 to 4.3(m, 3H), 4.3 to 4.7(m, 5H), 5.2 to 5.4(m, 4H), 5.8 to 6.1(m, 4H).

reactant | (2S,4S)-4-acetylthio-1-allyloxycarbonylpyrrolidine-2-methanol | ca. 30 mmole, 8.02 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CO | C11H17NO4S
reactant | triphenylphosphine | 13.6 mmole, 9.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-allyloxycarbonylsulfamide | 15.9 mmole, 3.12 g | C(C=C)OC(=O)NS(=O)(=O)N | C4H8N2O4S
reactant | azodicarboxylic acid diethylester | 36 mmole, 5.67 ml | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | ethyl acetate | 83 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(N-sulfamoyl-N-allyloxycarbonylamino)methylpyrrolidine | 6.74 g, Yield: 55% | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CN(C(=O)OCC=C)S(N)(=O)=O | C15H23N3O7S2
